US07659296B2
F. 2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzooxazole-6-carboxylic acid methyl ester
A solution of 2-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-benzooxazole-6-carboxylic acid methyl ester (1.50 g, 3.38 mmol) in MeOH (20 mL) is added a slurry of Pd—C (150 mg, 10%) in THF (20 mL) at RT. The resulting mixture is stirred under hydrogen balloon pressure for 12 h. The mixture is filtered through a pad of celite, and the filtrate is concentrated. The residue is purified with 20% EtOAc/Hex to afford the title compound (1.20 g, 100%). H-NMR (ppm, CDCl3) δ: 8.11 (1H, s), 8.03 (1H, dd, J=1.8, 8.4 Hz), 7.73 (1H, d, J=8.4 Hz), 6.97 (1H, d, J=2.2 Hz), 6.92 (1H, dd, J=2.2, 8.4 Hz), 6.70 (1H, d, J=8.4 Hz), 3.93 (3H, s), 2.40 (2H, q, J=7.5 Hz), 2.30 (2H, q, J=7.5 Hz), 2.20 (3H, s), 0.76 (6H, t, J=7.5 Hz).

reactant | 2-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-benzooxazole-6-carboxylic acid methyl ester | 3.38 mmol, 1.50 g | COC(=O)C1=CC2=C(N=C(O2)C(CC)(CC)C2=CC(=C(C=C2)OCC2=CC=CC=C2)C)C=C1 | C28H29NO4
solvent | MeOH | 20 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd—C | 150 mg | [Pd] | Pd
product | 2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzooxazole-6-carboxylic acid methyl ester | 1.20 g, 100% | COC(=O)C1=CC2=C(N=C(O2)C(CC)(C2=CC(=C(C=C2)O)C)CC)C=C1 | C21H23NO4
